US06399613B1
A solution of 392 mg of 2,5-dimethoxycarbonylpyrazine and 364 mg of 2-amino-1,3-propanediol in 5 cm3 of ethanol is heated at a temperature in the region of the reflux temperature for 3 hours. The reaction mixture is filtered while hot. The white solid is washed with 3 times 10 cm3 of boiling ethanol. 530 mg of N,N′-bis(1,3-dihydroxy-2-propyl)pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 218° C. [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): from 3.45 to 3.65 (mt, 8H: 4×CH2O); 4.02 (mt, 2H: 2×NCH); 4.85 (t, J=5.5 Hz, 4H: 4×OH); 8.48 (d, J=9 Hz, 2H: 2×CONH); 9.25 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 392 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | 2-amino-1,3-propanediol | 364 mg | NC(CO)CO | C3H9NO2
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
product | N,N′-bis(1,3-dihydroxy-2-propyl)pyrazine-2,5-dicarboxamide | 530 mg | OCC(CO)NC(=O)C1=NC=C(N=C1)C(=O)NC(CO)CO | C12H18N4O6
